US20010041740A1
First, 0.18 g (0.50 mmol) of N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2,3,3,3-pentafluoropropionamidine as present compound 4 was dissolved in 10 ml of N,N-dimethylformamide, to which 0.04 g (1.0 mmol) of sodium hydride (about 60% in oil) was added under ice cooling, and the mixture was stirred for 10 minutes. Then, 0.05 g (0.50 mmol) of methyl chloroformate was added to the reaction mixture, which was stirred at room temperature for 6 hours. Water was poured into the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.08 g of [1-(2,6-dichloro-4-trifluoromethylphenylimino)-2,2,3,3,3-pentafluoropropyl]carbamic acid methyl ester (hereinafter referred to as present compound 60).

reactant | N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2,3,3,3-pentafluoropropionamidine | 0.50 mmol, 0.18 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NC(C(C(F)(F)F)(F)F)=N | C10H4Cl2F8N2
reactant | sodium hydride | 1.0 mmol, 0.04 g | [H-].[Na+]
reactant | methyl chloroformate | 0.50 mmol, 0.05 g | ClC(=O)OC | C2H3ClO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [1-(2,6-dichloro-4-trifluoromethylphenylimino)-2,2,3,3,3-pentafluoropropyl]carbamic acid methyl ester | 0.08 g | COC(NC(C(C(F)(F)F)(F)F)=NC1=C(C=C(C=C1Cl)C(F)(F)F)Cl)=O | C12H6Cl2F8N2O2
